US06861419B2
Proceeding as in Reference 5, Step 5.1, but substituting 2,3,4-trimethoxy-benzaldehyde for 2,4-dimethoxybenzaldehyde and 2-acetyl-3-hydroxy-cyclohex-2-enone for 3-acetyl-4-hydroxy-6-methyl-pyran-2-one, provided 3-hydroxy-2-[(E)-3-(2,3,4-trimethoxy-phenyl)-acryloyl]-cyclohex-2-enone.

reactant | 2,4-dimethoxybenzaldehyde | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | 2-acetyl-3-hydroxy-cyclohex-2-enone | C(C)(=O)C=1C(CCCC1O)=O | C8H10O3
reactant | 3-acetyl-4-hydroxy-6-methyl-pyran-2-one | C(C)(=O)C=1C(OC(=CC1O)C)=O | C8H8O4
product | 3-hydroxy-2-[(E)-3-(2,3,4-trimethoxy-phenyl)-acryloyl]-cyclohex-2-enone | OC1=C(C(CCC1)=O)C(\C=C\C1=C(C(=C(C=C1)OC)OC)OC)=O | C18H20O6
